US06727264B1
TERT-BUTYL 4-[2-(ISOBUTYRYLAMINO)-5-(TRIFLUOROMETHOXY)PHENYL]-3,6-DIHYDRO-1(2H)-PYRIDINECARBOXYLATE:
Prepared by Procedure W and Scheme AF using N-[2-bromo-4-(trifluoromethoxy)phenyl]-2-methylpropanamide and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate: ESMS m/e: 329.0 (M−100)+.

reactant | N-[2-bromo-4-(trifluoromethoxy)phenyl]-2-methylpropanamide | BrC1=C(C=CC(=C1)OC(F)(F)F)NC(C(C)C)=O | C11H11BrF3NO2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
product | TERT-BUTYL 4-[2-(ISOBUTYRYLAMINO)-5-(TRIFLUOROMETHOXY)PHENYL]-3,6-DIHYDRO-1(2H)-PYRIDINECARBOXYLATE | C(C(C)C)(=O)NC1=C(C=C(C=C1)OC(F)(F)F)C=1CCN(CC1)C(=O)OC(C)(C)C | C21H27F3N2O4
